US07148174B2
trans-N,N′-bispyridin-2-ylmethylenecyclohexane-1,2-diamine
15.0 g (0.13 mol) of trans-1,2-diaminocyclohexane are dissolved in 80 ml of methanol and, at room temperature, 28.1 g (0.26 mol) of pyridine-2-aldehyde are added a little at a time. The solution is refluxed for one hour and then cooled to room temperature. The precipitated solid is filtered off and dried in an oil pump vacuum. The product is obtained in the form of a light-yellow powder in a yield of 23 g (79 mmol, 60%). 1H-NMR (400 MHz, CDCl3): δ=8.55 (m, 2H, Py), 8.31 (s, 2H, ═C—H), 7.88, 7.63, 7.21 (3×m, 6H, Py), 3.52 (m, 2H, NC—H), 1.90–1.49 (m, 8H, (CH2)4) ppm.

reactant | trans-1,2-diaminocyclohexane | 0.13 mol, 15.0 g | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | pyridine-2-aldehyde | 0.26 mol, 28.1 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | methanol | 80 ml | CO | CH4O
product | trans-N,N′-bispyridin-2-ylmethylenecyclohexane-1,2-diamine | N1=C(C=CC=C1)C=N[C@H]1[C@@H](CCCC1)N=CC1=NC=CC=C1 | C18H20N4
